US04324793
61 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride in 800 ml of diethyl ether is reacted in a stirred apparatus with 18 g of 1-butylmercaptan for 6 hours at 25° C. The completion of the reaction is determined by gas chromatography. After removal of the solvent, there is obtained 66 g (92% of theory) of (4-nitro-2-trichloromethylphenyl)-n-butyl disulfide as a yellow oil.

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | 1-butylmercaptan | 18 g | C(CCC)S | C4H10S
solvent | diethyl ether | 800 ml | C(C)OCC | C4H10O
product | (4-nitro-2-trichloromethylphenyl)-n-butyl disulfide | 66 g, 92% | [N+](=O)([O-])C1=CC(=C(C=C1)SSCCCC)C(Cl)(Cl)Cl | C11H12Cl3NO2S2
